US08242145B2
Step 1: (4-Methoxy-3-{2-(2-oxo-oxazolidin-3-ylmethyl)-4-[(pyridine-4-carbonyl)-amino]-phenoxy}-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 100, Step 1, using the following starting materials: {3-[4-amino-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester and isonicotinoyl chloride hydrochloride.

reactant | {3-[4-amino-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CN1C(OCC1)=O)=O | C21H24N2O6
reactant | isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
product | (4-Methoxy-3-{2-(2-oxo-oxazolidin-3-ylmethyl)-4-[(pyridine-4-carbonyl)-amino]-phenoxy}-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(=O)C1=CC=NC=C1)CN1C(OCC1)=O)=O | C27H27N3O7
